US06673850B1
2-{3-[4-(2-Methyl-2-morpholin-4-yl-propionyl)-phenylthio]-propylthiomethyl}-acrylic acid methyl ester (1)
3.0 g (8.8 mmol) of 1-[4-(3-mercaptopropylthio)phenyl]-2-methyl-2-morpholin-4-yl-propane-1-one are dissolved in 1.50 ml of methanol. To the solution are successively added 1.89 g (10.6 mmol) of methyl 2-(bromomethyl)acrylate and 1.22 g (8.8 mmol) of potassium carbonate, and the reaction mixture is stirred at room temperature for 10 min. The reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is washed with water, and dried over MgSO4. After distilling off the ethyl acetate, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:3) as an eluent, and an oily product is obtained.

reactant | 1-[4-(3-mercaptopropylthio)phenyl]-2-methyl-2-morpholin-4-yl-propane-1-one | 8.8 mmol, 3.0 g | SCCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C17H25NO2S2
reactant | methyl 2-(bromomethyl)acrylate | 10.6 mmol, 1.89 g | BrCC(C(=O)OC)=C | C5H7BrO2
reactant | potassium carbonate | 8.8 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 1.50 ml | CO | CH4O
product | 2-{3-[4-(2-Methyl-2-morpholin-4-yl-propionyl)-phenylthio]-propylthiomethyl}-acrylic acid methyl ester | COC(C(=C)CSCCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O)=O | C22H31NO4S2
